US07259266B2
Sodium 7-(4-ethylphenoxy)-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of 7-(4-ethylphenoxy)-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid 40.3 mg (0.107 mmole) in 2.0 mL of ethanol was treated with 1.057 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide a quantitative yield of a yellow solid: 1H NMR (CD3OD/400 MHz) 1.21 (t, 3H, J=7.6 Hz), 2.12 (s, 3H), 2.61 (q, 2H, J=7.6 Hz), 5.87 (q, 1H, J=7.2 Hz), 6.38 (d, 1H, J=8.0 Hz), 6.84 (d, 2H, J=8.0 Hz), 7.00 (d, 1H), J=8.0 Hz), 7.17 (d, 2H, J=8.0 Hz), 7.40 (s, 1H).

reactant | 7-(4-ethylphenoxy)-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.107 mmole, 40.3 mg | C(C)C1=CC=C(OC2=CC=C3C=C(C(OC3=C2C)C(F)(F)F)C(=O)O)C=C1 | C20H17F3O4
reactant | NaOH | 0.1008N, 1.057 mL | [OH-].[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | Sodium 7-(4-ethylphenoxy)-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | C(C)C1=CC=C(OC2=CC=C3C=C(C(OC3=C2C)C(F)(F)F)C(=O)[O-])C=C1.[Na+] | InChI=1S/C20H17F3O4.Na/c1-3-12-4-7-14(8-5-12)26-16-9-6-13-10-15(19(24)25)18(20(21,22)23)27-17(13)11(16)2;/h4-10,18H,3H2,1-2H3,(H,24,25);/q;+1/p-1
